US05773663
2',3'-Di-n-butoxy-2,6-dichloro-4'-methoxy-6'-methyl-benzophenone
Sodiumhydride (0.4 g; 60%; 10 mmol) is added with stirring to a solution of 2,6-dichloro-2',3'-dihydroxy-4'-methoxy-6'-methyl-benzophenone (1.64 g; 5 mmol) in tetrahydrofurane. The solvent is evaporated and the residue dissolved in 30 ml of dimethylformamide. 1-iodo-n-butane (4.6 g; 25 mmol) is added, the mixture is stirred at 100° C. for 8 hours and then the solvent is evaporated. The residue is shaken with toluene/2N hydrochloric acid, the organic layer separated, washed with water and the solvent evaporated. The residue is purified by chromatography (flash column filled with 35 g of silicagel; elution with 500 ml of petrolether containing 2% of ethylacetate); yellow oil (0.7 g; 32% y).

reactant | Sodiumhydride | 10 mmol, 0.4 g | [H-].[Na+]
reactant | 2,6-dichloro-2',3'-dihydroxy-4'-methoxy-6'-methyl-benzophenone | 5 mmol, 1.64 g | ClC1=C(C(=O)C2=C(C(=C(C=C2C)OC)O)O)C(=CC=C1)Cl | C15H12Cl2O4
reactant | 1-iodo-n-butane | 25 mmol, 4.6 g | ICCCC | C4H9I
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 2',3'-Di-n-butoxy-2,6-dichloro-4'-methoxy-6'-methyl-benzophenone | C(CCC)OC1=C(C(=CC(=C1OCCCC)OC)C)C(C1=C(C=CC=C1Cl)Cl)=O | C23H28Cl2O4
